US08168659B2
3-Trifluoromethylsulfanyl-benzaldehyde
Add a solution of dimethyl sulfoxide (0.82 mL, 11.5 mmol) in dichloromethane (2 mL) over a period of 5 minutes to a solution of oxalyl chloride (0.46 mL, 5.28 mmol) in dichloromethane (10 mL) cooled to −78° C. Stir 10 minutes then add a solution of (3-trifluoromethylsulfanyl-phenyl)-methanol (1.00 g, 4.80 mmol) in dichloromethane (4 mL). Stir 15 minutes then add triethylamine (3.35 mL, 24.0 mmol). Slowly warm to ambient temperature, add water and separate the organic layer. Extract the aqueous layer with dichloromethane. Dry (sodium sulfate) the combined organic layers, filter, and concentrate in vacuo. Purify by silica gel chromatography (10% ethyl acetate/hexane) to afford the titled compound as a yellow liquid (896 mg, 91%). 1H NMR (400 MHz, DMSO) δ 7.74 (dd, J=7.6, 7.6, 1H), 8.01 (d, J=7.9, 1H), 8.09 (d, J=7.5, 1H), 8.12 (s, 1H), 10.03 (s, 1H).

reactant | dimethyl sulfoxide | 11.5 mmol, 0.82 mL | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 5.28 mmol, 0.46 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (3-trifluoromethylsulfanyl-phenyl)-methanol | 4.80 mmol, 1.00 g | FC(F)(F)SC=1C=C(C=CC1)CO | C8H7F3OS
reactant | triethylamine | 24.0 mmol, 3.35 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 3-Trifluoromethylsulfanyl-benzaldehyde | 896 mg, 91% | FC(F)(F)SC=1C=C(C=O)C=CC1 | C8H5F3OS
